US07737149B2
2-(4-cyclopropyl-1,4-diazepan-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrimidine-5-carboxamide
Trimethylaluminium (1.402 ml, 2.80 mmol) was added dropwise to a stirred suspension of methyl 2-(4-cyclopropyl-1,4-diazepan-1-yl)pyrimidine-5-carboxylate (310 mg, 1.12 mmol) and 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (277 mg, 1.12 mmol) in toluene (5.61 ml) at 25° C. The resulting solution was stirred at 60° C. for 18 h. The cooled reaction mixture was quenched into methanol (50 mL) and treated with HCl (2M aqueous solution, to pH7 or lower) and purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford impure product. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (8.00 mg, 1%) as a cream solid. Some impure fractions were combined and concentrated to dryness and purified by crystallisation from MeCN to afford the title compound (51 mg, 9%) as a cream solid.

reactant | Trimethylaluminium | 2.80 mmol, 1.402 ml | C[Al](C)C
reactant | methyl 2-(4-cyclopropyl-1,4-diazepan-1-yl)pyrimidine-5-carboxylate | 1.12 mmol, 310 mg | C1(CC1)N1CCN(CCC1)C1=NC=C(C=N1)C(=O)OC | C14H20N4O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.12 mmol, 277 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
solvent | toluene | 5.61 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-cyclopropyl-1,4-diazepan-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrimidine-5-carboxamide | 8.00 mg, 1% | C1(CC1)N1CCN(CCC1)C1=NC=C(C=N1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C26H33N7O3
